data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7421,"CC(C)(C)OC(=O)[C:1](C(=O)CC1=CC=CC=C1)([NH:2]CCC1=CNC2=CC=CC=C12)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2729,"CC(=O)OC=C1C=CC=C1.CC(Cl)=[C:1]([O-:2])[Cl:3].CC[NH+](CC)CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,292,"C1[CH2:1][O:2]1.N#C[CH-:3]C#N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4541,"COC(C[C+](C)C[Si:1](C)(C)C)C1=CC=CC=C1.CO[Si](C)(C)C.O=S(=O)(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,5902,"C1=CC=[N:1]C=C1.O=S(Cl)[O+:2](CCCCl)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1654,"O=C(O)C1=CC=CC=C1[N:1]=[N:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7564,"CC1(Br)C(=O)[N+:1](C)=[C:2]2C=CC=C[C:3]12[H:4].N#N.O=C1CCC(=O)[N-:5]1|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1763,"C[N+:1](C)(C)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2196,"CC(N)C1=CC=CC=C1.CC1=CC=CC=C1.CCOC(=O)C=[N+:1](C(C)C1=CC=CC=C1)[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5127,"CCOC(OCC)[CH2:1][Br:2].CCO[P:3](OCC)OCC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8673,"CC(=O)[O-].CCOC(=O)C1=C(COC)[NH:1][C:2]2([OH2+:3])C=CC(O)=CC12.CCOC(C)=O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9528,"CC(=O)C(C1=CC=CC=C1)C(C)(CC1=CC=CC=C1)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9744,"OCC[CH:1]=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5225,"C=C[C:1](Cl)=[O:2].CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,24,"CO[C:1](OC)=[O:2].C[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4861,"C1CC[N+:1]2=[C:2](CC1)[N:3]([H:4])CCC2.CC1CCC=C[C:5]([O:6][Si](C)(C)C)=[CH:7]1.[I-]|(6, 5);((5, 7), 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6329,"C[P+:1](Cl)(Cl)[Mg][I].[I][Mg:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,3329,"CC(=O)[O-:1].C[C:2]1=[NH+:3]C2=C(C(=O)CCC2)[CH:4]1[H:5].O|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,6638,"CC(C)[CH:1](C)[Br:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5851,"C[Si](C)(C)[O+:1]=[CH2:2]|((2, 1), 1)"
train,pmechdb_split_0,0,5626,"C1=CC=[C:1]([Li:2])C=C1.CN(C)C(=O)CC[C:3](C1=CC=CC=C1)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1634,"CCO[C+:1]1C=CC(Br)=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5678,"CC(=O)O.C[C:1](CC1=C([NH2:2])CCCC1=O)=[O:3].O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4135,"CO[C:1](Cl)=[O:2].C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4478,"C[C:1]1(C)[O+:2]([B-](F)(F)F)CC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2831,"C1=CC=C([CH2:1][Cl:2])C=C1.CO[P:3](OC)OC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,881,"CO.C[O:1][C:2]12OCCC1(C1=CC=CC=C1)C1=C(C=CC=C1)[OH+:3]2.[Br-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9953,"BrC[C:1]1=[CH:2]C=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,2591,"CCO[C:1](CCC(=O)N(C)C)=[O:2].C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6006,"CC[O:1][C:2]1([O-:3])CN(C(=O)OC(C)(C)C)CC2=C(C=CC(Cl)=C2)N1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5251,"CCNCC=C[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3936,"C=CC[Si](C)(C)C.CC1OC2=C(C(O[Si](C(C)C)(C(C)C)C(C)C)=CC=C2Br)C1(C)C=[O:1].[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,6581,"O=C(C1=CC=CC=C1)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5666,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC(=O)C1=CC=C(C[O-:2])C=C1|(2, 1)"
train,pmechdb_split_0,0,1203,"CC(=O)[O:1][H:2].O=C(O)C[NH2+]C(CCC(=O)C1=CC=CO1)(C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6635,"CN[C:1](=[CH:2]C)[O-:3].[Br:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3130,"C=CC1CC1C(C(C=C)[Si](C)(C)C)[O:1][H:2].[H:3][K:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7907,"CC(=O)C[CH:1]([H:2])[C:3](C)=[NH+:4]C1=NC(Br)=CC=C1.CC(=O)[O-:5].O|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8791,"ClC1=NC=CC=C1[NH2:1].O.[Br-].[N:2]#[O+:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9481,"C1=CC=C(C2CCCC(C3=CC=CC=C3)[C:1](C3=CC=CC=C3)=[CH:2]2)C=C1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6790,"O=S(=O)(O)[O:1][H:2].OC1([OH:3])CCCCO1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9515,"CO[C:1](C1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2846,"CC(C)C1CC(F)C2=N[N+:1](C3=C(F)C(F)=C(F)C(F)=C3F)=[C:2]([C:3](O)(C3=CC=CO3)[H:4])N21.CCOC(=O)C(=O)C=CC1=CC=CC=C1.CC[N:5](C(C)C)C(C)C.F[B-](F)(F)F|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,517,"C1CC[NH:1]C1.CC12CC[C:2](=[N+:3]3CCCC3)[CH:4]([H:5])C1(O)CCCC2=O.O|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,5092,"C[N:1](C)[CH:2]=[CH2:3].O=S(=O)(O)[O:4][H:5]|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,10248,"CO[CH+:1][S-:2]|(2, 1)"
train,pmechdb_split_0,0,10098,"O=C1CCCC(C2CC2C(CO)[OH+:1][Sn-:2]([Cl])([Cl])([Cl])[Cl])O1.[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,2985,"CCO[C:1](CC(=O)CC1=CC=CC=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
